US09376422B2
Compound 208: 5-chloro-3-(cyclohexylsulfinyl)-N-((4,6-dimethyl-2-oxo-1,2-dihydro-pyridin-3-yl)methyl)-2-methylbenzamide
To a stirred solution of 5-chloro-3-(cyclohexylthio)-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methylbenzamide (0.2 g, 0.48 mmol) in DCM (7 mL) at 0° C., m-CPBA (0.098 g, 0.57 mmol) was added and stirred at 0° C. for 2 h. Reaction was monitored by TLC. After completion, the reaction mixture was diluted with DCM and washed with aqs. NaHCO3. The product was purified by solvent washings to afford the title compound (0.17 g, 82.3%).

reactant | 5-chloro-3-(cyclohexylthio)-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methylbenzamide | 0.48 mmol, 0.2 g | ClC=1C=C(C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C1)C)SC1CCCCC1 | C22H27ClN2O2S
reactant | m-CPBA | 0.57 mmol, 0.098 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 7 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-3-(cyclohexylsulfinyl)-N-((4,6-dimethyl-2-oxo-1,2-dihydro-pyridin-3-yl)methyl)-2-methylbenzamide | 0.17 g, 82.3% | ClC=1C=C(C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C1)C)S(=O)C1CCCCC1 | C22H27ClN2O3S
